US06077850
Tetramethylethylenediamine (TMEDA)(10.44 mL, 8.035 g, 69.15 mmol) was added via syringe to n-BuLi (43.22 mL of 1.6 M in hexanes, 69.15 mmol) and the solution was chilled to 0° C. A solution of 4-chlorothiophenol (5.00 g, 34.57 mmol) in cyclohexane (25 mL) was added with stirring over 1 hour. The resulting tan slurry was stirred overnight at room temperature, chilled to 0° C., and DMF (2.94 mL, 2.78 g, 38.03 mmol) was added via syringe over 2 minutes. The resulting gummy slurry was stirred at room temperature for 30 hours and became a powdery suspension. A mixture of 2 N HCl and ice was added to the reaction mixture until the pH became acidic (pH=1). During this addition, the mixture warmed and became first red and then pale yellow. This mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo yielding a clear red-brown oil. This oil was triturated with hexanes yielding a red-brown semisolid. This semisolid was purified by plug flash chromatography over silica gel, eluting with 1:1, hexanes:dichloromethane to afford 5-chloro-thiosalicylaldehyde (0.858 g, 14%) as an intensely yellow solid suitable for use without further purification.

reactant | Tetramethylethylenediamine | 69.15 mmol, 10.44 mL, 8.035 g | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | 69.15 mmol, 1.6 M, 43.22 mL | [Li]CCCC
reactant | 4-chlorothiophenol | 34.57 mmol, 5.00 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | DMF | 38.03 mmol, 2.94 mL, 2.78 g | CN(C)C=O | C3H7NO
reactant | HCl | 2 N | Cl | ClH
solvent | cyclohexane | 25 mL | C1CCCCC1 | C6H12
product | 5-chloro-thiosalicylaldehyde | 0.858 g, 14% | ClC1=CC=C(C(C=O)=C1)S | C7H5ClOS
